US05167949
a) Ethyl 2-(2,3-dichlorophenoxy)acetimidate hydrochloride
Obtained using the procedure described in section a of Example 6, starting with 219.8 g (1.086 moles) of (2,3-dichlorophenoxy)acetonitrile [prepared according to R. W. Fuller et al., J. Am. Chem. Soc. 1973, 16, 101] and 50.0 g (1.086 moles) of absolute ethanol in 1750 ml of ether. Reaction time: 16 hours at 0° C. Yld: 293.5 g (95%), m.p. 167°-169° C.

reactant | (2,3-dichlorophenoxy)acetonitrile | 1.086 moles, 219.8 g | ClC1=C(OCC#N)C=CC=C1Cl | C8H5Cl2NO
reactant | ethanol | 1.086 moles, 50.0 g | C(C)O | C2H6O
solvent | ether | 1750 ml | CCOCC | C4H10O
product | Ethyl 2-(2,3-dichlorophenoxy)acetimidate hydrochloride | Cl.ClC1=C(OCC(OCC)=N)C=CC=C1Cl | InChI=1S/C10H11Cl2NO2.ClH/c1-2-14-9(13)6-15-8-5-3-4-7(11)10(8)12;/h3-5,13H,2,6H2,1H3;1H
